US03980700
A convenient procedure for manufacture of the 2-formyl compounds consists of cleaving the glycol structure of the corresponding 2-(α,β-dihydroxyphenethyl) substances. 3-Acetoxy-5-oxo-2-(α,β-dihydroxyphenethyl)cyclopent- 1-eneheptanoate in ethanol is contacted with aqueous sodium periodate, thus affording 3-acetoxy-2-formyl-5-oxocyclopent-1-eneheptanoate. The 2-formyl compounds are alternatively produced from the corresponding 2-styryl derivatives by combining the hydroxylation and cleavage processes. Methyl 3-hydroxy-5-oxo-2-styrylcyclopent- 1-eneheptanoate in aqueous dioxane is thus allowed to react with osmium tetroxide and sodium periodate to afford methyl 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoate.

reactant | Methyl 3-hydroxy-5-oxo-2-styrylcyclopent- 1-eneheptanoate | OC1C(=C(C(C1)=O)CCCCCCC(=O)OC)C=CC1=CC=CC=C1 | C21H26O4
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | methyl 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoate | C(=O)C1=C(C(CC1O)=O)CCCCCCC(=O)OC | C14H20O5
